US04097591
A suspension of 4.21 g of N2 -(2-dibenzothienylsulfonyl)-L-arginine in 20 ml of thionyl chloride was stirred for 2 hours at room temperature. Addition of cold dry diethyl ether resulted in a precipitate which was collected by filtration and washed several times with dry diethyl ether to give N2 -(2-dibenzothienylsulfonyl)-L-arginyl chloride.

reactant | N2 (2-dibenzothienylsulfonyl)-L-arginine | 4.21 g | N#N.C1=C(C=CC=2SC3=C(C21)C=CC=C3)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | N2 (2-dibenzothienylsulfonyl)-L-arginyl chloride | N#N.C1=C(C=CC=2SC3=C(C21)C=CC=C3)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl | InChI=1S/C18H19ClN4O3S2.N2/c19-17(24)14(5-3-9-22-18(20)21)23-28(25,26)11-7-8-16-13(10-11)12-4-1-2-6-15(12)27-16;1-2/h1-2,4,6-8,10,14,23H,3,5,9H2,(H4,20,21,22);/t14-;/m0./s1
